US07375121B2
Bis(trimethylsilyl)phosphonite was generated as described in WO 01/042252 using N,O-bis-(trimethylsilyl)acetamide (3.0 mL; 12.1 mmol) and ammonium hypophosphite (1.0 g; 12.0 mmol). The resulting reaction mixture was cooled to 0° C. and a solution of ethyl 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)acrylate (0.72 g; 2.35 mmol), in methylene chloride (4 mL) was added dropwise. The reaction was stirred overnight at room temperature. Methanol was added at 0° C. followed by water. The reaction mixture was concentrated. The remaining residue was dissolved in water and purified by preparative HPLC (0.1 M NH4Ac (aq)/CH3CN, 1/0→0/1), concentrated and lyophilized to afford 0.56 g (64%) of 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-ethoxy-3-oxopropylphosphinic acid.

reactant | Bis(trimethylsilyl)phosphonite | C[Si](C)(C)OPO[Si](C)(C)C | C6H19O2PSi2
reactant | ammonium hypophosphite | 12.0 mmol, 1.0 g | [PH2](=O)[O-].[NH4+]
reactant | ethyl 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)acrylate | 2.35 mmol, 0.72 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)CC(C(=O)OCC)=C | C16H22N2O4
reactant | Methanol | CO | CH4O
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-ethoxy-3-oxopropylphosphinic acid | 0.56 g, 64% | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)CC(CP(O)=O)C(=O)OCC | C16H25N2O6P
